US06001856
Preparation Three N-(5-Bromo-pyridin-2-yl)-carbamic acid methyl ester.
A solution of 2-amino-5-bromopyridine (9.46 g, 20 mmol) and N,N-diisopropylethylamine (3.10 g) in chloroform (20 ml) was added to a solution of methyl chloroformate (2.30 g, 24 mmol) in chloroform (25 ml) dropwise with stirring at 0° C. The reaction mixture was stirred for 20 minutes, filtered and the precipitate was washed with chloroform and dried to afford 1.71 g (37%) of the title product as a white solid. mp 191-192° C. 1H NMR (CDCl3): δ=8.42 (d, 1 H); 8.30 (d, 1 H); 7.91 (d, 1 H); 7.77 (d of d, 1 H); 3.79 (s, 3 H). MS (El): m/z=230, 232 (M+, Br isotopes).

reactant | 2-amino-5-bromopyridine | 20 mmol, 9.46 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | N,N-diisopropylethylamine | 3.10 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methyl chloroformate | 24 mmol, 2.30 g | ClC(=O)OC | C2H3ClO2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(5-Bromo-pyridin-2-yl)-carbamic acid methyl ester | 1.71 g, 37% | COC(NC1=NC=C(C=C1)Br)=O | C7H7BrN2O2
